US07595312B2
(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-piperazin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione
850 mg (2.4 mmol) 8-methyl-3-piperazin-1-yl-8-aza-bicyclo[3.2.1]octan were added to a solution of 1.04 g (1.88 mmol) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid, 642 mg (2.0 mmol) TBTU and 1.64 mL (9.6 mmol) ethyldiisopropylamine in 20 mL DMF and the reaction mixture was stirred overnight at RT. The reaction solution was combined with 15% K2CO3 solution, stirred for 10 min at RT, the precipitated substance was suction filtered, washed with 50 mL water and dried in the air and purified by chromatography (silica gel, gradient: DCM to DCM/MeOH/NH3 10:85:5).

reactant | 8-methyl-3-piperazin-1-yl-8-aza-bicyclo[3.2.1]octan | 2.4 mmol, 850 mg | CN1C2CC(CC1CC2)N2CCNCC2 | C12H23N3
reactant | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | 1.88 mmol, 1.04 g | NC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O4
reactant | TBTU | 2.0 mmol, 642 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 9.6 mmol, 1.64 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-piperazin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione | NC1=C(C=C(C[C@H](C(=O)N2CCN(CC2)C2CC3CCC(C2)N3C)CC(=O)N3CCC(CC3)N3C(NC2=C(CC3)C=CC=C2)=O)C=C1C(F)(F)F)Cl | C38H49ClF3N7O3
